US05175301
In 15 ml of acetonitrile was dissolved 6.05 g (0.0373 mole) of 6-chloro-3-pyridylmethyl chloride, and under cooling with ice-water and stirring, the solution was added dropwise to a solution of 10.97 g of n-propylamine in 50 ml of acetonitrile. After completion of the dropwise addition, the mixture was stirred at room temperature for 1 hour and at an external temperature of 50° C. for an additional 1 hour. The acetonitrile was distilled off and the residue was diluted with aqueous sodium hydrogen carbonate solution and extracted with CH2Cl2 (100 ml×3). The extract was dried over MgSO4 and distilled to remove CH2Cl2, whereby 6.94 g of N-(6-chloro-3-pyridylmethyl)-N-n-propylamine was obtained as a yellow-brown oil.

reactant | 6-chloro-3-pyridylmethyl chloride | 0.0373 mole, 6.05 g | ClC1=CC=C(C=N1)CCl | C6H5Cl2N
reactant | n-propylamine | 10.97 g | C(CC)N | C3H9N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-(6-chloro-3-pyridylmethyl)-N-n-propylamine | 6.94 g | ClC1=CC=C(C=N1)CNCCC | C9H13ClN2
